US05369110
The starting material can be prepared, for example, as follows: Analogously to Example 21c) and using 1.3 g (3.5 mmol) of 2-(S)-amino-N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-butanoic acid amide, 1.0 ml (5.8 mmol) of Hunig base and 1.3 g (4.6 mmol) of trifluoromethanesulfonic acid anhydride, N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-2-(S)-trifluoromethanesulfonyl-amino-butanoic acid amide is obtained in the form of a crude oil that is used in the next step without being further purified.

reactant | 2-(S)-amino-N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-butanoic acid amide | 3.5 mmol, 1.3 g | N[C@H](C(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCCC)C(C)C | C23H29N3O
reactant | Hunig base | 5.8 mmol, 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic acid anhydride | 4.6 mmol, 1.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-2-(S)-trifluoromethanesulfonyl-amino-butanoic acid amide | C(CCC)N(C([C@](C(C)C)(S(=O)(=O)C(F)(F)F)N)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H28F3N3O3S
